US04636516
In 20 ml of ethanol was dissolved 0.11 g of metallic sodium and after adding 1 g of 4,5-diphenyl-2-mercaptoimidazole to the solution followed by stirring several minutes, 1 g of 3,5-di-tert-butylphenacyl bromide was added thereto followed by stirring for one hour at room temperature. The reaction mixture was concentrated udner reduced pressure and then water was added to the residue. The crystals thus formed were recovered by filtration, dried, dissolved in 20 ml of phosphorus oxychloride, and the solution was refluxed for 14 hours. The reaction mixture was concentrated under reduced pressure and after adding water to the residue followed by neutralization with potassium carbonate, the product was extracted with chloroform. The extract was dried and concentrated. The residue was subjected to silica gel column chromatography and the product was eluted with chloroform. The crude crystals thus obtained were recrystallized from ethanol to provide 0.8 g of 3-(3,5-di-tert-butyl-4-hydroxyphenyl)-5,6-diphenyl imidazo[2,1-b]thiazole.

reactant | sodium | 0.11 g | [Na] | Na
reactant | 4,5-diphenyl-2-mercaptoimidazole | 1 g | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=CC=C1)S | C15H12N2S
reactant | 3,5-di-tert-butylphenacyl bromide | 1 g | C(C)(C)(C)C=1C=C(C(CBr)=O)C=C(C1)C(C)(C)C | C16H23BrO
reactant | ethanol | 20 ml | C(C)O | C2H6O
product | 3-(3,5-di-tert-butyl-4-hydroxyphenyl)-5,6-diphenyl imidazo[2,1-b]thiazole | 0.8 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=1N2C(SC1)=NC(=C2C2=CC=CC=C2)C2=CC=CC=C2 | C31H32N2OS
